US09226922B2
A mixture of (6-chloro-3-oxo-1-trityl-2,3-dihydro-1H-pyrazolo[4,3-c]pyridin-4-yl)methyl acetate (504.6 mg, 1.043 mmol) and potassium carbonate (558.3 mg, 4.04 mmol) in DMF (10 ml) was charged with 2-bromoethanol (0.30 ml, 4.25 mmol) and stirred at RT for 6 hr. Quenched with water and extracted 3× with Et2O. Washed organics with brine, dried over MgSO4, filtered and concentrated in vacuo. Purified via flash chromatography (0-100% EtOAc/Hex) to provide (6-chloro-3-(2-hydroxyethoxy)-1-trityl-1H-pyrazolo[4,3-c]pyridin-4-yl)methyl acetate. MS: [M+H]+ m/z 528.

reactant | (6-chloro-3-oxo-1-trityl-2,3-dihydro-1H-pyrazolo[4,3-c]pyridin-4-yl)methyl acetate | 1.043 mmol, 504.6 mg | C(C)(=O)OCC1=NC(=CC2=C1C(NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)Cl | C28H22ClN3O3
reactant | potassium carbonate | 4.04 mmol, 558.3 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethanol | 4.25 mmol, 0.30 ml | BrCCO | C2H5BrO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (6-chloro-3-(2-hydroxyethoxy)-1-trityl-1H-pyrazolo[4,3-c]pyridin-4-yl)methyl acetate | C(C)(=O)OCC1=NC(=CC2=C1C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OCCO)Cl | C30H26ClN3O4
